### PR TITLE
[Merged by Bors] - feat(Dynamics/Ergodic): stronger PreErgodic definition

### PR DESCRIPTION
**Pull request by lua-vr**
This PR changes the `PreErgodic` definition to quantify over almost-invariant null measurable sets instead of strictly invariant measurable sets. It makes the definition invariant with respect to almost-everywhere equality of maps, which was not the case before.

The initial motivation for this change is as prior work for making `MeasurePreserving` assume the map `f` is `AEMeasurable` instead of `Measurable`. With that change, the previous definition in terms of strictly invariant measurable sets cannot be proven from the almost-everywhere version (previously `QuasiErgodic.ae_empty_or_univ`), and would instead require an additional measurability hypothesis for `f`.
 

\[1\]: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/PreErgodic.20definition/with/620793508

---

Made with the help of Sonnet, reviewed and edited by me.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Dynamics/Ergodic/Action/OfMinimal.lean [hunk 1]
```diff
@@ -233,9 +233,11 @@ If the preimages of `0` under the iterations of `f` are dense,
 then it is pre-ergodic with respect to any finite inner regular left invariant measure. -/]
 theorem preErgodic_of_dense_iUnion_preimage_one
     {μ : Measure G} [IsFiniteMeasure μ] [μ.InnerRegular] [μ.IsMulLeftInvariant]
-    (f : G →* G) (hf : Dense (⋃ n, f^[n] ⁻¹' 1)) : PreErgodic f μ := by
-  refine ⟨fun s hsm hs ↦
-    aeconst_of_dense_setOfPred_preimage_smul_eq (M := G) hsm.nullMeasurableSet ?_⟩
+    (f : G →* G) (hf : Dense (⋃ n, f^[n] ⁻¹' 1))
+    (hqmp : Measure.QuasiMeasurePreserving f μ μ) :
```
Comment (lua-vr) [inline Mathlib/Dynamics/Ergodic/Action/OfMinimal.lean:237]: I also added the assumption here to preserve the proof. 

I am not sure if it is strictly necessary for this statement, but it seems to be necessary for this proof.

File: Mathlib/Dynamics/Ergodic/Ergodic.lean [hunk 2]
```diff
@@ -56,35 +56,65 @@ structure QuasiErgodic (f : α → α) (μ : Measure α := by volume_tac) : Prop
...
-theorem of_iterate (n : ℕ) (hf : PreErgodic f^[n] μ) : PreErgodic f μ :=
-  ⟨fun _ hs hs' => hf.aeconst_set hs <| IsFixedPt.preimage_iterate hs' n⟩
+theorem prob_eq_zero_or_one [IsProbabilityMeasure μ] (hf : PreErgodic f μ)
+    (hs : NullMeasurableSet s μ) (hs' : f ⁻¹' s =ᵐ[μ] s) : μ s = 0 ∨ μ s = 1 := by
+  simpa [prob_compl_eq_zero_iff₀ hs] using hf.measure_self_or_compl_eq_zero hs hs'
 
-theorem smul_measure {R : Type*} [SMul R ℝ≥0∞] [IsScalarTower R ℝ≥0∞ ℝ≥0∞]
-    (hf : PreErgodic f μ) (c : R) : PreErgodic f (c • μ) where
-  aeconst_set _s hs hfs := (hf.aeconst_set hs hfs).anti <| ae_smul_measure_le _
+theorem of_iterate (n : ℕ) (hqmp : QuasiMeasurePreserving f μ μ) (hf : PreErgodic f^[n] μ) :
```
Comment (lua-vr) [inline Mathlib/Dynamics/Ergodic/Ergodic.lean:101]: This lemma would have become false without the new assumption.

**Comment by sgouezel** [comment]
Can you fill in the PR description, to explain and motivate the change?

**Comment by lua-vr** [comment]
Thank you. I also thought about adding a lemma stating that the new definition is invariant with respect to almost everywhere equality, do you have opinions on that?

**Comment by lua-vr** [comment]
-awaiting-author

File: Mathlib/Dynamics/Ergodic/Ergodic.lean [hunk 3]
```diff
@@ -56,35 +56,65 @@ structure QuasiErgodic (f : α → α) (μ : Measure α := by volume_tac) : Prop
 
 variable {f : α → α} {μ : Measure α}
 
+/-- To prove that a quasi-measure-preserving `f` is pre-ergodic, it suffices to check the ergodicity
+condition on strictly invariant measurable sets. -/
+theorem PreErgodic.of_preimage_eq (hf : QuasiMeasurePreserving f μ μ)
```
Comment (lua-vr) [inline Mathlib/Dynamics/Ergodic/Ergodic.lean:61]: I am also unsure if I should remove this lemma and keep only `QuasiErgodic.of_preimage_eq`, which has the same hypothesis and stronger conclusion. But this version is being used elsewhere.

**Comment by sgouezel** [comment]
bors r+
Thanks!

**Comment by ocfnash** [comment]
Thanks for doing this: I’ve been meaning to implement this change for years.
